US07772233B2
6-Chloro-3-(2-fluoro-4-iodo-phenylamino)-pyridazine-4-carboxylic acid (2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
To a mixture of 6-chloro-3-(2-fluoro-4-iodo-phenylamino)-pyridazine-4-carboxylic acid (46 mg, 0.12 mmol), O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (18.9 mg, 0.13 mmol) and diisopropyl ethylamine (27.2 mg, 0.21 mmol) in dichloromethane, was added PyBop (36.4 mg, 0.06 mmol). The reaction was carried out at room temperature for 5 hours. The mixture was concentrated and purified by flash chromatography to afford the desired adduct. LC/MS [9.50 min; 523 (M+1)].

reactant | 6-chloro-3-(2-fluoro-4-iodo-phenylamino)-pyridazine-4-carboxylic acid | 0.12 mmol, 46 mg | ClC1=CC(=C(N=N1)NC1=C(C=C(C=C1)I)F)C(=O)O | C11H6ClFIN3O2
reactant | O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 0.13 mmol, 18.9 mg | CC1(OCC(O1)CON)C | C6H13NO3
reactant | diisopropyl ethylamine | 0.21 mmol, 27.2 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBop | 0.06 mmol, 36.4 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Chloro-3-(2-fluoro-4-iodo-phenylamino)-pyridazine-4-carboxylic acid (2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | CC1(OCC(O1)CONC(=O)C1=C(N=NC(=C1)Cl)NC1=C(C=C(C=C1)I)F)C | C17H17ClFIN4O4
